US06110914
4'-(4-N-Methylpiperazin-1-yl)spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine]
A solution of 97 mg (0.387 mmol) of 4'-chlorospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] in 1 mL of 1-methylpiperazine was heated to reflux under a nitrogen atmosphere and stirred for 18 hours. Upon cooling to ambient temperature, the diluted with 40 mL of water, basicified with 2 mL of saturated aqueous sodium carbonate and extracted with chloroform (3×25 mL). The combined organic extract was dried over anhydrous magnesium sulfate, concentrated in vacuo, and flash chromatographed on neutral silica gel using a 4:1 mixture of ammoniated chloroform/methanol to provide 59 mg (48%) of the title compound as an amber oil: electrospray MS (m/z, relative intensity) 315 ([MH]+).

reactant | 4'-chlorospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 0.387 mmol, 97 mg | ClC1=C2C(=NC=C1)OC1(C2)CN2CCC1CC2 | C13H15ClN2O
reactant | sodium carbonate | 2 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-methylpiperazine | 1 mL | CN1CCNCC1 | C5H12N2
solvent | water | 40 mL | O | H2O
product | 4'-(4-N-Methylpiperazin-1-yl)spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 59 mg, 48% | CN1CCN(CC1)C1=C2C(=NC=C1)OC1(C2)CN2CCC1CC2 | C18H26N4O
